US05155122
Aqueous 1M NaOH (12.4 ml, 0.0124 mole) is added to 0° C. solution of 5-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]-1,3,4-thiadiazole-2(3H)-thione (2.0 g, 0.0062 mole) in methanol (20 ml). This is followed by addition of 2-bromoacetic acid (0.95 g, 0.0068 mole) in one portion. The resulting mixture is allowed to stir four hours with periodic warming. The solution is concentrated in vacuo and the residue is partitioned between ether and water. The layers are separated and the aqueous phase is made acidic with aqueous 6M HCl. The aqueous layer is extracted with 1:1 ethyl acetate/ether (2×). The combined organic layers are washed with saturated aqueous NaCl, and dried over MgSO4. Filtration and concentration in vacuo provides a solid which is recrystallized from ethyl acetate/hexane to give 1.6 g (2.4 g theor., 68%) of [[5-[3,5-bis(1,1-dimethyl-ethyl)-4-hydroxyphenyl]-1,3,4-thiadiazole-2-yl[thio]acetic acid, mp 187.5° C.

reactant | NaOH | 0.0124 mole, 1M, 12.4 ml | [OH-].[Na+]
reactant | 5-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]-1,3,4-thiadiazole-2(3H)-thione | 0.0062 mole, 2.0 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1=NNC(S1)=S | C16H22N2OS2
reactant | 2-bromoacetic acid | 0.0068 mole, 0.95 g | BrCC(=O)O | C2H3BrO2
solvent | methanol | 20 ml | CO | CH4O
product | 5-[3,5-bis(1,1-dimethyl-ethyl)-4-hydroxyphenyl]-1,3,4-thiadiazole-2-yl[thio]acetic acid | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1=NN=C(S1)SCC(=O)O | C18H24N2O3S2
